US05681838
Methyl (3-(3-aminopropyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride
2.9 g (9 mmol) of (1-(3-aminopropyl)-3-(methoxycarbonylphenylmethyl)ureido)acetic acid trifluoroacetate are dissolved in 50 ml of methanol. After cooling down to 0° C., 1.34 g (11 mmol) of thionyl chloride are slowly added dropwise. The mixture is allowed to warm up to room temperature, then stirred overnight, concentrated and crystallized by adding ethyl acetate and methanol.

reactant | (1-(3-aminopropyl)-3-(methoxycarbonylphenylmethyl)ureido)acetic acid trifluoroacetate | 9 mmol, 2.9 g | FC(C(=O)O)(F)F.NCCCN(C(=O)NC(C1=CC=CC=C1)C(=O)OC)CC(=O)O
reactant | thionyl chloride | 11 mmol, 1.34 g | S(=O)(Cl)Cl | Cl2OS
solvent | methanol | 50 ml | CO | CH4O
product | Methyl (3-(3-aminopropyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride | Cl.NCCCN1C(N(C(C1)=O)C(C(=O)OC)C1=CC=CC=C1)=O | InChI=1S/C15H19N3O4.ClH/c1-22-14(20)13(11-6-3-2-4-7-11)18-12(19)10-17(15(18)21)9-5-8-16;/h2-4,6-7,13H,5,8-10,16H2,1H3;1H
